US05389292
1-(4-Ethoxyphenyl)-2-(4'-difluoromethoxyphenyl)-ethane
19.7 g of 1-(4-ethoxyphenyl)-2-(4'-difluoromethoxyphenyl)-ethene are hydrogenated in 150 ml of THF analogously to Example 6b, using 6 g of Pd/C (5% Pd) as catalyst. m.p.: 37° C., Δn=0.103, viscosity: 8

reactant | 1-(4-ethoxyphenyl)-2-(4'-difluoromethoxyphenyl)-ethene | 19.7 g | C(C)OC1=CC=C(C=C1)C=CC1=CC=C(C=C1)OC(F)F | C17H16F2O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 6 g | [Pd] | Pd
product | 1-(4-Ethoxyphenyl)-2-(4'-difluoromethoxyphenyl)-ethane | C(C)OC1=CC=C(C=C1)CCC1=CC=C(C=C1)OC(F)F | C17H18F2O2
